US06797823B1
N-(5 -Bromo-6-methyl-2-pyridyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl) oxy]-2,5-dimethylphenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethyl-aniline (100 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml), and a solution of triphosgene (92 mg) in dichloromethane was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, 6-amino-3-bromo-2-methylpyridine (69 mg) was added to the reaction solution, and the mixture was stirred at room temperature overnight. A saturated aqueous sodium hydrogencarbonate solution was added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was dried over sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was dissolved in a minor amount of chloroform, and a larger amount of ether was added to the solution to precipitate a crystal which was then collected by filtration to give 80 mg (yield 48%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,5-dimethyl-aniline | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1C)C | C19H20N2O3
reactant | triphosgene | 92 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 6-amino-3-bromo-2-methylpyridine | 69 mg | NC1=CC=C(C(=N1)C)Br | C6H7BrN2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5 -Bromo-6-methyl-2-pyridyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl) oxy]-2,5-dimethylphenyl}urea | 80 mg, yield 48% | BrC=1C=CC(=NC1C)NC(=O)NC1=C(C=C(C(=C1)C)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C | C26H25BrN4O4
